US04680303
To a solution of 4-chlorobutyl(6-methyl-2-pyridyl)methyl sulphide (9.2 g) in methylene chloride (140 cc), an 82.5% strength solution of meta-chloroperbenzoic acid (8.2 g) in methylene chloride (90 cc) is added dropwise in the course of 1 hour 30 minutes at a temperature in the region of 15° C. The mixture is stirred for 16 hours at a temperature in the region of 20° C. and then poured into neutral silica gel (225 g; 0.063-0.200 mm) contained in a column 4.3 cm in diameter. The column is eluted successively with methylene chloride (2.5 liters), a mixture (500 cc) of methylene chloride and ethyl acetate (50:50 by volume), ethyl acetate (500 cc) and a mixture (1.25 liters) of ethyl acetate and methanol (90:10 by volume), collecting 250-cc fractions. Fractions 15 to 19 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. 2-[(4-Chlorobutyl)sulphinylmethyl]-6-methylpyridine (8.8 g) is thereby obtained in the form of a yellow oil, and this is used without further purification in the subsequent syntheses.

reactant | 4-chlorobutyl(6-methyl-2-pyridyl)methyl sulphide | 9.2 g | ClCCCCC(C1=NC(=CC=C1)C)SC(CCCCCl)C1=NC(=CC=C1)C | C22H30Cl2N2S
reactant | meta-chloroperbenzoic acid | 8.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | methylene chloride | 140 cc | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 90 cc | C(Cl)Cl | CH2Cl2
product | 2-[(4-Chlorobutyl)sulphinylmethyl]-6-methylpyridine | 8.8 g | ClCCCCS(=O)CC1=NC(=CC=C1)C | C11H16ClNOS
